US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with (tetrahydrofuran-3-yl)methanamine similar to as described in Example 2 to afford 6.2 mg of (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(tetrahydrofuran-3-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 457 (M)+. 1H NMR (400 MHz, DMSO) δ 11.33 (t, J=5.4 Hz, 1H), 8.61 (d, J=8.5 Hz, 1H), 8.38 (s, 1H), 7.89 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.47 (s, 1H), 5.06-4.94 (m, 2H), 4.60-4.44 (m, 2H), 3.81-3.71 (m, 2H), 3.63 (dd, J=15.2, 7.7 Hz, 1H), 3.44 (dd, J=8.6, 5.9 Hz, 1H), 2.48-2.37 (m, 1H), 2.04-1.92 (m, 1H), 1.68-1.54 (m, 1H), 1.49 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | (tetrahydrofuran-3-yl)methanamine | O1CC(CC1)CN | C5H11NO
product | (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(tetrahydrofuran-3-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 6.2 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC3COCC3)C=C1C#CC(C)(C)O | C23H25FN4O5
